US04668686
A mixture of DL-N-(aminocarbonyl)-2-chloro-6-nitrophenylalanine (6.15 g, 21 mmol) prepared from 2-chloro-6-nitrobenzyl chloride according to steps 1, 2 and 3 above, concentrated hydrochloric acid (70 mL) and water (70 mL) was heated on a steam bath. After 45 minutes, the mixture was cooled, filtered and the solid washed with water and dried in air to give 5-[(2-chloro-6-nitrophenyl)methyl]-2,4imidazolidinedione (4.90 g, 85%), which was used without further purification. An analytical sample was prepared by dissolving a sample of the crude material (0.6 g) in boiling ethanol (30 mL) and adding ether to precipitate pure material (0.48 g). m.p. 210°-212° C. (dec). Spectral data were in accord with the assigned structure.

reactant | N-(aminocarbonyl)-2-chloro-6-nitrophenylalanine | 21 mmol, 6.15 g | NC(=O)N[C@@H](CC1=C(C=CC=C1[N+](=O)[O-])Cl)C(=O)O | C10H10ClN3O5
reactant | 2-chloro-6-nitrobenzyl chloride | ClC1=C(CCl)C(=CC=C1)[N+](=O)[O-] | C7H5Cl2NO2
reactant | hydrochloric acid | 70 mL | Cl | ClH
solvent | water | 70 mL | O | H2O
product | 5-[(2-chloro-6-nitrophenyl)methyl]-2,4imidazolidinedione | 4.90 g, 85% | ClC1=C(C(=CC=C1)[N+](=O)[O-])CC1C(NC(N1)=O)=O | C10H8ClN3O4
